US04053601
3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-methoxypyridazine was heated with t-butyl carbazate to give 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine.

reactant | 3-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-methoxypyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)OC)O | C19H27N3O4
reactant | t-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)NNC(=O)OC(C)(C)C)O | C23H35N5O5
